US05834261
Production of ethyl (2R,3S)-2-ethyl-3-hydroxybutyrate
Twenty grams of bakers' yeast (Sigma Chemical Company, Saccharomyces cerevisiae, type II) was suspended in a solution of 30 grams of sucrose in water in a conical flask, and the mixture was placed in an orbital shaker chamber maintained at 220 rpm and 30° C. for 30 minutes to initiate fermentation. Two grams of ethyl 2-ethyl acetoacetate was dissolved in 2 ml of 95% ethanol, the resulting solution was added to the fermenting yeast, and shaking was resumed. The reaction was followed by TLC (staining with phosphomolybdic acid in ethanolic sulfuric acid) to monitor the consumption of starting material and the production of product alcohol. After approximately 48 hours the reaction was judged complete, and the reaction was terminated by removing the flask from the shaker and adding 20-30 grams of Celite to the reaction mixture. The resulting suspension was suction filtered through a pad of Celite, and the clear yellow filtrate was extracted with ethyl acetate (4×200 ml). The extracts were combined, dried over MgSO4, filtered, and rotary evaporated to leave 1.6 grams of a yellowish oil containing ethyl (2R,3S)-2-methyl-3-hydroxybutyrate as the major product (80%) and ethyl (2S,3S)-2-methyl-3-hydroxybutyrate (20%) as the minor product as judged by chiral chromatography.

reactant | sucrose | 30 grams | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | ethyl (2R,3S)-2-methyl-3-hydroxybutyrate | C[C@@H](C(=O)OCC)[C@H](C)O | C7H14O3
reactant | ethyl (2S,3S)-2-methyl-3-hydroxybutyrate | C[C@H](C(=O)OCC)[C@H](C)O | C7H14O3
solvent | water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | phosphomolybdic acid | OP(=O)O.O[Mo](=O)(=O)O
product | ethyl (2R,3S)-2-ethyl-3-hydroxybutyrate | C(C)[C@@H](C(=O)OCC)[C@H](C)O | C8H16O3
